US05660814
According to the procedure described in Example 2, 111 g of compound (A) α-ethyl-2,4,6-triiodo-3-[[1-oxo-6-[(1,4,7,10-tetraazacyclododec-1-yl-acetyl)amino]hexyl]amino]benzenepropanoic acid (0.12 mol) are reacted with 67.2 g of bromoacetic acid (0.48 mol) in 600 ml of 80% EtOH. 63 g of α-ethyl-2,4,6-triiodo-3-[[1-oxo-6-[[4,7,10-tris(carboxymethyl)-1,4,7,10-tetraazacyclododec-1-ylacetyl]amino]hexyl]amino]benzenepropanoic acid (0.058 mol) are obtained.

reactant | α-ethyl-2,4,6-triiodo-3-[[1-oxo-6-[(1,4,7,10-tetraazacyclododec-1-yl-acetyl)amino]hexyl]amino]benzenepropanoic acid | 0.12 mol | C(C)C(C(=O)O)CC1=C(C(=C(C=C1I)I)NC(CCCCCNC(CN1CCNCCNCCNCC1)=O)=O)I | C27H43I3N6O4
reactant | bromoacetic acid | 0.48 mol, 67.2 g | BrCC(=O)O | C2H3BrO2
solvent | EtOH | 600 ml | CCO | C2H6O
product | α-ethyl-2,4,6-triiodo-3-[[1-oxo-6-[[4,7,10-tris(carboxymethyl)-1,4,7,10-tetraazacyclododec-1-ylacetyl]amino]hexyl]amino]benzenepropanoic acid | 0.058 mol, 63 g, Yield: 48% | C(C)C(C(=O)O)CC1=C(C(=C(C=C1I)I)NC(CCCCCNC(CN1CCN(CCN(CCN(CC1)CC(=O)O)CC(=O)O)CC(=O)O)=O)=O)I | C33H49I3N6O10
